US04176009
(2) Boc-Gln-Gly-Ile-Ala-Gly-Gln-D-Arg(NO2)-OBzl
Boc-Ile-Ala-Gly-Gln-D-Arg(NO2)-OBzl (3.2 g, 5 m mol) was demasked with respect to the N-masking group, and coupled with Boc-Gln-Gly-OH (1.7 g, 5.5 m mol) in the manner similar to that of Example 1, paragraph 7).

reactant | Boc-Ile-Ala-Gly-Gln-D-Arg(NO2)-OBzl | 3.2 g | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](C)C(=O)NCC(=O)N[C@@H](CCC(N)=O)C(=O)N[C@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C34H54N10O11
reactant | Boc-Gln-Gly-OH | 1.7 g | N([C@@H](CCC(N)=O)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C12H21N3O6
product | Boc-Gln-Gly-Ile-Ala-Gly-Gln-D-Arg(NO2)-OBzl | N([C@@H](CCC(N)=O)C(=O)NCC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C)C(=O)NCC(=O)N[C@@H](CCC(N)=O)C(=O)N[C@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C41H65N13O14
